US07091214B2
A solution of 1,2-diamino-2-methylpropane (9.3 mL, 88.9 mmol) and triethylamine (5.0 mL, 35.5 mmol) in dichloromethane (100 mL) was cooled to 0° C. A solution of 4-chloro-3-nitro-7-phenylquinoline (5.06 g, 17.8 mmol) in dichloromethane (50 mL) was added over a period of 45 minutes, and then the reaction was allowed to warm to ambient temperature. The solution was washed sequentially with water (2×100 mL) and brine (150 mL), dried over sodium sulfate, filtered, and concentrated under reduced pressure to provide N1-(3-nitro-7-phenylquinolin-4-yl)-2-methylpropane-1,2-diamine as an orange solid.

reactant | 1,2-diamino-2-methylpropane | 88.9 mmol, 9.3 mL | NCC(C)(C)N | C4H12N2
reactant | triethylamine | 35.5 mmol, 5.0 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-3-nitro-7-phenylquinoline | 17.8 mmol, 5.06 g | ClC1=C(C=NC2=CC(=CC=C12)C1=CC=CC=C1)[N+](=O)[O-] | C15H9ClN2O2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N1-(3-nitro-7-phenylquinolin-4-yl)-2-methylpropane-1,2-diamine | [N+](=O)([O-])C=1C=NC2=CC(=CC=C2C1NCC(C)(N)C)C1=CC=CC=C1 | C19H20N4O2
